US05654326
By the method used in Example 1, Part D, 1.3 g (4.0 mmol) of 1-([1,1'-biphenyl]-4-ylmethyl)-4-methoxy-2-methyl-1H-indole was O-demethylated by treating it with 16 mL of 1M BBr3 /CH2Cl2 to give 970 mg (77% yield) of crude 1-([1,1'-biphenyl]-4-ylmethyl)-4-hydroxy-2-methyl-1H-indole.

reactant | 1-([1,1'-biphenyl]-4-ylmethyl)-4-methoxy-2-methyl-1H-indole | 4.0 mmol, 1.3 g | C1(=CC=C(C=C1)CN1C(=CC2=C(C=CC=C12)OC)C)C1=CC=CC=C1 | C23H21NO
reactant | BBr3 CH2Cl2 | 1M, 16 mL | B(Br)(Br)Br.C(Cl)Cl
product | 1-([1,1'-biphenyl]-4-ylmethyl)-4-hydroxy-2-methyl-1H-indole | 970 mg, 77% yield | C1(=CC=C(C=C1)CN1C(=CC2=C(C=CC=C12)O)C)C1=CC=CC=C1 | C22H19NO
